US05843973
N-t-Butoxycarbonyl-2-(trans-4-t-butyldimethylsilyloxymethylcyclohexyl)ethylamine
In 20 ml of dry tetrahydrofuran was dissolved 1.0 g of trans-4-t-butyldimethylsilyloxymethylcyclohexylacetonitrile, and 3.74 ml of lithium aluminum hydride solution (1.0M tetrahydrofuran solution) were added dropwise thereto under cooling in a dry ice-acetone bath, and the mixture was stirred for 1 hour and further at 0° C. for 25 minutes. Then, 3.74 ml of 1N aqueous hydrochloric acid solution were added thereto and the mixture was stirred for 20 minutes. To the reaction mixture were added 2.06 ml of di-t-butyl dicarbonate, and the mixture was stirred at room temperature for 2 hours and 15 minutes. To the reaction mixture were added 150 ml of ethyl acetate, and the mixture was washed with an aqueous citric acid solution, an aqueous sodium chloride solution, an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (40:1-20:1) as an eluting solvent to obtain 1.05 g of the desired compound as a colorless oil.

reactant | trans-4-t-butyldimethylsilyloxymethylcyclohexylacetonitrile | 1.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC[C@H](CC1)CC#N | C15H29NOSi
reactant | lithium aluminum hydride | 1.0M, 3.74 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N, 3.74 ml | Cl | ClH
reactant | di-t-butyl dicarbonate | 2.06 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-t-Butoxycarbonyl-2-(trans-4-t-butyldimethylsilyloxymethylcyclohexyl)ethylamine | 1.05 g | C(C)(C)(C)OC(=O)NCC[C@@H]1CC[C@H](CC1)CO[Si](C)(C)C(C)(C)C | C20H41NO3Si
